US08217028B2
To a solution of methyl {bis[(2,2,2-trifluoroethyl)oxy]phosphoryl}acetate (0.16 mL), 18-crown-6 (1.0 g) in THF (5 mL) stirred under nitrogen at −70° C. was added NaHMDS (1.0 mol/L in THF, 0.8 mL) during 1 min. The reaction mixture was stirred at −70° C. for 10 mins. 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde (200 mg) was added and the mixture was stirred at this temperature for 1.5 h and then left to warm to room temperature overnight. The reaction mixture was quenched with saturated ammonium chloride solution, diluted with water (25 mL) and extracted with ethyl acetate (50 mL). The organic phase was washed with brine, dried over sodium sulphate and evaporated to afford the crude product, which was purified by column chromatography (10% ethyl acetate in hexane) to afford methyl (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoate (D63) (120 mg). MS (ES): C24H22ClN3O4 requires 451; found 452.2 (M+H+).

reactant | methyl {bis[(2,2,2-trifluoroethyl)oxy]phosphoryl}acetate | 0.16 mL | FC(COP(=O)(OCC(F)(F)F)CC(=O)OC)(F)F | C7H9F6O5P
reactant | 18-crown-6 | 1.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | NaHMDS | 1.0 mol/L, 0.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indole-3-carbaldehyde | 200 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)C=O | C21H18ClN3O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl (2Z)-3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]-2-propenoate | 120 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)\C=C/C(=O)OC | C24H22ClN3O4
